US04409214
A mixture of 7-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(3.1 g) in methanol (22 ml), tetrahydrofuran (10 ml) and conc. hydrochloric acid (1.3 g) was stirred for 2.5 hours at ambient temperature. The reaction mixture was added to a mixture of water and ethyl acetate, and adjusted to pH 7.5 with a saturated aqueous sodium bicarbonate. The separated aqueous layer was adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were filtered off, washed with water and dried over phosphorus pentoxide in vacuo to give 7-[2-(2-cyclopenten-1-yloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(2.7 g).

reactant | 7-[2-(2-cyclopenten-1-yloxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 3.1 g | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C20H19N5O6S2
reactant | hydrochloric acid | 1.3 g | Cl | ClH
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 22 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[2-(2-cyclopenten-1-yloxyimino)-2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.7 g | C1(C=CCC1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)C=1N=C(SC1)N | C19H19N5O5S2
